Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
aspirin / Naprosyn / phytonadione (vitamin K1)
 
Attending: ___.
 
Chief Complaint:
Dark Urine
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
Ms ___ is a ___ year old woman with a history of 
pancreatic cancer, s/p ___ in ___, who presents with dark 
urine. Endorses noticing dark urine over the course of the last 
week. She was seen in urgent ___ yesterday and was found to 
have a T bili of 4.0. Oncologist asked her to come to emergency 
room for possible ERCP/MRCP. Patient today denies any chest pain 
or shortness of breath. No abdominal pain. No nausea vomiting. 
No change in color of her stools. 

Of note she has a history of pancreatic cancer status post 
___ in ___. She finished chemotherapy and radiation in 
___, and has not had any evidence of disease recurrence since 
then. However, according to her oncologist she has had a recent 
increase in her CA ___ levels. Earlier this year pt had a chest 
CT that showed pulmonary nodules concerning for malignancy vs 
infection/inflammation. She was treated with Augmentin for 14 
days. Repeat CT scan showed resolution of prior concerning 
nodule post treatment with Abx. No biopsy needed. 

In the ED, initial vitals:  T 98.90, HR 59, BP 132/64, RR 18, 
SPO2 100% on RA. 

Labs were notable for:  
--Tbili 3.0, ALT 310, AST 386, Alk phos 276
--lipase 10
--lactate 1.1
--normal chem panel (except glucose 197)
-- WBC 3.6, Hgb 10.9, plt 166
-- urine with small bili, 30 protein, few bacteria, otherwise 
negative

Imaging:  none

Patient was given: no medications 

On arrival to the floor, Pt was comfortable and in NAD. She 
confirmed the above history. Endorses dark urine that lightens 
somewhat with lots of water intake. Denies any change in her 
stool color. Endorses diffuse itching. Endorses poor appetite 
over the last week, denies early satiety. Denies 
cp/sob/n/v/f/c/d. 

REVIEW OF SYSTEMS: 
A complete 10-point review of systems was performed and was 
negative unless otherwise noted in the HPI.

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
Malignant neoplasm of head of pancreas s/p Whipple. She also had 
chemotherapy, radiation therapy with Dr. ___, surgery with 
___ at the ___ back in ___. She 
finished her treatment in ___. Followup CT scans have shown no 
evidence of recurrent disease
 
PAST MEDICAL HISTORY: 
-Anemia, iron deficiency 
-Gastrointestinal bleeding 
-Vitamin D deficiency 
-Acid fast bacillus 
-AVM (arteriovenous malformation) of colon 
-Colon adenoma 
-DOE (dyspnea on exertion) 
-Malignant neoplasm of head of pancreas 
-Hypertension, essential 
-Diabetes mellitus type 1, uncontrolled, insulin dependent 
-Lung nodules 

 
Social History:
___
Family History:
Mom - T2DM, HTN, 
Dad - HTN

 
Physical ___:
ADMISSION PHYSICAL EXAM:  
GENERAL: well appearing lady in NAD, appears younger than age
HEENT: PERRL, EOMI, possible icterus of soft palate although 
difficult to tell, no scleral icterus
NECK: supple
LUNGS: CTAB
CV: RRR, +S1/S2, no m/r/g
ABD: soft, NT, ND
EXT: no ___ edema
SKIN:  no visible rashes
NEURO:  AAOx3, moving all 4 extremities without issue, able to 
ambulate and move around the room independently, good historian
ACCESS:  PIV

DISCHARGE PHYSICAL EXAM:  
Vitals:  98.4 PO 113 / 63 52 18 98 Ra 
GENERAL: well appearing lady in NAD, appears younger than age
HEENT: PERRL, EOMI, possible icterus of soft palate although 
difficult to tell, no scleral icterus
NECK: supple
LUNGS: CTAB
CV: RRR, +S1/S2, no m/r/g
ABD: soft, NT, ND
EXT: no ___ edema
SKIN:  no visible rashes
NEURO:  AAOx3, moving all 4 extremities without issue, able to 
ambulate and move around the room independently, good historian
ACCESS:  PIV
 

 
Pertinent Results:
==============
ADMISSION LABS
==============
___ 01:00PM BLOOD WBC-3.6* RBC-4.80 Hgb-10.9* Hct-35.4 
MCV-74* MCH-22.7* MCHC-30.8* RDW-16.1* RDWSD-41.7 Plt ___
___ 01:00PM BLOOD Neuts-60.8 ___ Monos-11.4 Eos-2.2 
Baso-0.8 Im ___ AbsNeut-2.18 AbsLymp-0.87* AbsMono-0.41 
AbsEos-0.08 AbsBaso-0.03
___ 07:30AM BLOOD ___ PTT-37.6* ___
___ 01:00PM BLOOD Glucose-197* UreaN-13 Creat-0.8 Na-135 
K-4.1 Cl-99 HCO3-27 AnGap-13
___ 01:00PM BLOOD ALT-310* AST-386* AlkPhos-276* 
TotBili-3.0* DirBili-1.7* IndBili-1.3
___ 01:00PM BLOOD Albumin-3.7 Calcium-9.1 Phos-3.3 Mg-1.9 
Iron-102

================================
ELEVATED AMINOTRANSFERASE WORKUP
================================

___ 01:00PM BLOOD calTIBC-341 Ferritn-76 TRF-262
___ 01:00PM BLOOD TSH-0.58
___ 01:00PM BLOOD HCV Ab-Negative
___ 01:00PM BLOOD AMA-NEGATIVE Smooth-POSITIVE *
___ 01:00PM BLOOD HBsAg-Negative HBsAb-Negative 
HBcAb-Negative HAV Ab-Positive IgM HBc-Negative

===============
IMAGING/STUDIES
===============

MRCP ___
IMPRESSION:    
1.  Patent biliary system without evidence of obstruction.  
Pneumobilia and mild prominence of the intrahepatic bile ducts 
are stable since the PET-CT from ___. 
2.  Vague peripheral intrahepatic bile duct enhancement is 
compatible with 
chronic, mild cholangitis in the setting of prior 
hepaticojejunostomy.  No 
focal fluid collection. 
3.  No MR evidence of tumor recurrence. 

___ RUQ US
IMPRESSION:    
Status post Whipple.  There is no intrahepatic biliary duct 
dilation.  There is a small amount of intrahepatic pneumobilia.  
 
There is prominence of the left renal collecting system.

CT Chest ___
IMPRESSION:1.  LEFT upper lobe nodular opacity of interest from 
most recent priorexamination has decrease in volume suggesting 
likely inflammatory/infectiousetiology.2.  Interval development 
an adjacent 4 mm nonspecific pulmonary nodule. This maybe also 
inflammatory/infectious, but given background history of 
malignancy a 3month follow-up is recommended3.  Continued 
waxing/waning of predominantly ___ micronodular disease 
asnoted above.4.  Stability of additional nodules including 6 mm 
LEFT upper lobe nodule5.  Previously noted subcentimeter 
mediastinal lymph nodes of decreased prominence compared to most 
recent prior

==============
DISCHARGE LABS
==============
___ 08:15AM BLOOD WBC-3.8* RBC-5.40* Hgb-12.1 Hct-39.1 
MCV-72* MCH-22.4* MCHC-30.9* RDW-16.0* RDWSD-41.1 Plt ___
___ 08:15AM BLOOD Glucose-211* UreaN-10 Creat-0.8 Na-140 
K-4.2 Cl-101 HCO3-27 AnGap-16
___ 08:15AM BLOOD ALT-327* AST-361* AlkPhos-293* 
TotBili-2.3*
___ 08:15AM BLOOD Calcium-9.3 Phos-3.4 Mg-1.___ year old woman with a history of HTN, DM, pancreatic cancer 
s/p Whipple in ___ with no active disease, who presents with 
dark urine and elevated TBili and AST/ALT concerning for biliary 
obstruction.

#Dark Urine:
#Elevated Bilirubin
#Transaminitis: Pt presenting with painless elevation in her 
transaminases and dark urine concerning for biliary obstruction. 
Given her history of pancreatic cancer, principle concern was 
for recurrent disease vs. scar tissue causing obstruction. 
However, pt does have recent imaging (including PET) with no 
evidence of disease recurrence. Of note, pt does not have a 
gallbladder. No leukocytosis or abd pain, making infection less 
unlikely. RUQ ultrasound unremarkable. MRCP with stable chronic 
intrahepatic biliary duct prominence and pneumobilia, as well as 
evidence of mild chronic intrahepatic cholangitis. T bili 
trending down on the day of discharge, however ALT and AST 
remained elevated in the 300 range. Hepatitis serologies 
negative. Iron panel unremarkable. AMA negative. Anti-smooth 
muscle antibody pending at time of discharge. 

#Type 2 Diabetes: Hgb A1c 7.9 in ___. Continued 11 U Lantus 
qpm, ISS. 

#Thrombosed SMV stent and cavernous transformation of the portal 
vein: Result of whipple procedure. Continued home nadolol.

#Pancreatic Cancer: S/p Whipple in ___ with completion of chemo 
in ___. No evidence of recurrent disease since then (including 
on recent PET scan), although pt does have increasing Ca ___. 
Continued home creon. No evidence of recurrence on MRCP.

#GERD: continue home omeprazole

TRANSITIONAL ISSUES:
=============================
-Transaminitis and hyperbilirubinemia: Will need ongoing 
evaluation for these asymptomatic LFT abnormalities as an 
outpatient. Plans to follow-up with GI at ___ in ___ within 
a week after discharge. Anti-smooth muscle antibody pending at 
time of discharge
-Patient instructed to recheck LFTs in ___ days after discharge 
at ___
# HCP/Contact: Son ___ ___
# Code:  Full, presumed

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 40 mg PO BID 
2. Creon 12 4 CAP PO TID W/MEALS 
3. Nadolol 40 mg PO QAM 
4. Nadolol 60 mg PO QPM 
5. Glargine 11 Units Bedtime
Humalog 5 Units Breakfast
Humalog 5 Units Dinner

 
Discharge Medications:
1.  Glargine 11 Units Bedtime
Humalog 5 Units Breakfast
Humalog 5 Units Dinner 
2.  Creon 12 4 CAP PO TID W/MEALS  
3.  Nadolol 40 mg PO QAM  
4.  Nadolol 60 mg PO QPM  
5.  Omeprazole 40 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Transaminitis
Hyperbilirubinemia

SECONDARY DIAGNOSES:
Pancreatic insufficiency
History of pancreatic cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr ___, 

It was a pleasure meeting you and taking ___ of you during your 
hospitalization at ___. 

Unfortunately you were admitted to the hospital after developing 
abnormally dark urine.  Blood tests showed evidence of liver 
dysfunction.  Since you have a history of pancreatic cancer and 
pancreas surgery, you were hospitalized for further monitoring 
and a special MRI scan of the liver. The MRI did not show any 
new worrisome problems with the liver. 

Your liver lab tests have still not returned to normal. We would 
like you to follow-up with a gastroenterology doctor further 
evaluation of these abnormal lab tests. An appointment has been 
arranged for you. 

Please have your blood test checked again in the next one or two 
days after discharge at your ___ doctor's office. 

We wish you the best of health!

Regards,

Your ___ Team
 
Followup Instructions:
___